US06727264B1
1-(3-METHYLPHENYL)-1H-INDOLE:
Prepared by Procedure C and Scheme O using 1H-indole and 1-iodo-3-methylbenzene: ESMS m/e: 208.0 (M+H)+.

reactant | 1H-indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 1-iodo-3-methylbenzene | IC1=CC(=CC=C1)C | C7H7I
product | 1-(3-METHYLPHENYL)-1H-INDOLE | CC=1C=C(C=CC1)N1C=CC2=CC=CC=C12 | C15H13N
